US07645771B2
Benzenesulfonamide was made by adding benzenesulfonyl chloride to a solution of ammonia in tetrahydrofuran and evaporating to a solid. Benzenesulfonamide (87 mg, 0.50 mmole) was added to a shaken suspension of 3-ethoxy-2,2-dimethyl-3-oxopropanoic acid (100 mg, 0.62 mmole) reactivated on PS-DCC resin (1.62 g, 1.25 mmole) and 1.50 mmole of N,N-dimethylpyridin-4-amine in DCE. When reaction is complete the resin is filtered off and the organic layer washed with 1N HCl dried and evaporated. The resulting residue was dissolved in 6 ml of ethanol and 6 ml of 1N LiOH was added and heated to 40° C. The reaction was neutralized with 1N HCl and evaporated to afford 2,2-dimethyl-3-oxo-3-[(phenylsulfonyl)amino]propanoic acid as a crude product which was used with no further purification.

reactant | Benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | ammonia | N | H3N
reactant | Benzenesulfonamide | 0.50 mmole, 87 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | 3-ethoxy-2,2-dimethyl-3-oxopropanoic acid | 0.62 mmole, 100 mg | C(C)OC(C(C(=O)O)(C)C)=O | C7H12O4
reactant | DCC | 1.25 mmole, 1.62 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | N,N-dimethylpyridin-4-amine | 1.50 mmole | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCE | ClCCCl | C2H4Cl2
product | 2,2-dimethyl-3-oxo-3-[(phenylsulfonyl)amino]propanoic acid | CC(C(=O)O)(C(NS(=O)(=O)C1=CC=CC=C1)=O)C | C11H13NO5S
